US09034899B2
A mixture of 4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline (500 mg, 1.1 mmol) which was prepared according to the procedure in Step F of Example 26, 5-bromopyridine (0.21 mL, 2.2 mmol) and cesium carbonate (1.08 mg, 3.3 mmol) in water (3 mL) and N,N-dimethylformamide (10 mL) was degassed with argon and then [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (44 mg, 0.06 mmol) was added. The mixture was degassed again and then heated to 90° C. for 2.5 hours. The mixture was partitioned between water and ethyl acetate (3×) and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was partially purified by column chromatography (9:1 hexanes/ethyl acetate to ethyl acetate, then 90:10:1 methylene chloride/methanol/concentrated ammonium hydroxide) to give 4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(pyridin-2-yl)-1,2,3,4-tetrahydroisoquinoline (282 mg, 65%) as a brown oil: ESI MS m/z 387, 389 [M+H]+.

reactant | 4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline | 1.1 mmol, 500 mg | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)F)B1OC(C(O1)(C)C)(C)C)C | C22H25BCl2FNO2
reactant | 5-bromopyridine | 2.2 mmol, 0.21 mL | BrC=1C=CC=NC1 | C5H4BrN
reactant | cesium carbonate | 3.3 mmol, 1.08 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 3 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(pyridin-2-yl)-1,2,3,4-tetrahydroisoquinoline | 282 mg, 65% | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)F)C1=NC=CC=C1)C | C21H17Cl2FN2
